US04760146
Ethyl 1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-carboxylate (6.35 g, 20.7 mmol) was dissolved in 50 ml of dimethylformamide (DMF) to which piperidine (10 equiv, 15 ml) was added. The contents were stirred under N2 at 50° C. for 16 hrs. The reaction was allowed to cool to ambient temperature, whereupon the DMF was removed on the rotovap at 3 mm pressure. To the residue was added 200 ml of ethyl ether and the organic material was washed three times with 100 ml of water. The organic fraction was dried over MgSO4, filtered and concentrated in vacuo to afford after distillation (155°-160° C./0.1 mm) ethyl 1-[3-(1-piperidinyl)propyl]-6-phenyl-3-cyclohexene-1-carboxylate as a clear viscous oil (6.61 g, 90% yield).

reactant | Ethyl 1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-carboxylate | 20.7 mmol, 6.35 g | ClCCCC1(CC=CCC1C1=CC=CC=C1)C(=O)OCC | C18H23ClO2
reactant | piperidine | 15 ml, 10 equiv | N1CCCCC1 | C5H11N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 1-[3-(1-piperidinyl)propyl]-6-phenyl-3-cyclohexene-1-carboxylate | 6.61 g, 90% yield | N1(CCCCC1)CCCC1(CC=CCC1C1=CC=CC=C1)C(=O)OCC | C23H33NO2
